US08283353B2
4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
To a solution of N-(1,4-dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-5-amine (11.8 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (1.6 mL) in N,N-diethylaniline (60 mL) was added dropwise a solution of ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (24 g) in N,N-diethylaniline (40 mL) at 180° C. The mixture was stirred for 3 hr and allowed to cool to room temperature, and ethyl acetate and water were added. The mixture was extracted with ethyl acetate, and the organic layer was successively washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (19.5 g, 73%).

reactant | N-(1,4-dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-5-amine | 11.8 g | O1CCOC12CCC(CC2)NC2=CC=NN2 | C11H17N3O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.6 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 24 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-diethylaniline | 60 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | N,N-diethylaniline | 40 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | water | O | H2O
product | 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 19.5 g, 73% | O1CCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=CC1 | C31H32N4O3
